US04518596
2-(N-Acetoacetyl-piperazino)-8-benzylamino-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 5 from 8-benzylamino-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine and diketene in acetone under reflux.

reactant | 8-benzylamino-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine | C(C1=CC=CC=C1)NC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)N2CCNCC2 | C21H26N8OS
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
solvent | acetone | CC(=O)C | C3H6O
product | 2-(N-Acetoacetyl-piperazino)-8-benzylamino-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine | C(CC(=O)C)(=O)N1CCN(CC1)C=1N=C(C2=C(N1)C(=NC=N2)NCC2=CC=CC=C2)N2CCS(CC2)=O | C25H30N8O3S
